US04367238
7-(o-Tolyloxy)-2,3-dihydrobenzofuran-2-one (2.20 g) was dissolved in a solution of potassium hydroxide (2.0 g) in methanol (30 ml), and the solution was allowed to stand at room temperature for an hour. The reaction mixture was evaporated, and the residue was dissolved in water, washed with diethyl ether, acidified with conc. hydrochloric acid and then extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and evaporated. The oily residue was allowed to stand at room temperature and the precipitating crystals were recrystallized from a mixture of benzene and n-hexane to give prisms of 2-[2-hydroxy-3-(o-tolyloxy)phenyl]acetic acid (1.10 g). mp 116°-117° C.

reactant | 7-(o-Tolyloxy)-2,3-dihydrobenzofuran-2-one | 2.20 g | C1(=C(C=CC=C1)OC1=CC=CC=2CC(OC21)=O)C | C15H12O3
reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-[2-hydroxy-3-(o-tolyloxy)phenyl]acetic acid | 1.10 g | OC1=C(C=CC=C1OC1=C(C=CC=C1)C)CC(=O)O | C15H14O4
